US08686002B2
1.3 (2-Aminoquinolin-3-yl)(2,6-dimethoxyphenyl)methanone
(2-Chloroquinolin-3-yl)(2,6-dimethoxyphenyl)methanone (2.0 g, 6.1 mmol) was dissolved in dioxane (15 mL), mixed with 25% aqueous ammonia solution (10 mL) and heated to 150° C. under its own pressure for 24 hours in a pressurized reactor. The reaction mixture was diluted with dichloromethane and washed several times with water. The organic phase was dried (sodium sulfate) and concentrated. The crude product was purified by chromatography (silica gel, dichloromethane, methanol). Yield: 1.15 g (3.73 mmol, 61%).

reactant | (2-Chloroquinolin-3-yl)(2,6-dimethoxyphenyl)methanone | 6.1 mmol, 2.0 g | ClC1=NC2=CC=CC=C2C=C1C(=O)C1=C(C=CC=C1OC)OC | C18H14ClNO3
reactant | ammonia | 10 mL | N | H3N
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2-Aminoquinolin-3-yl)(2,6-dimethoxyphenyl)methanone | NC1=NC2=CC=CC=C2C=C1C(=O)C1=C(C=CC=C1OC)OC | C18H16N2O3
